US05703098
To a stirred solution of 3-(3'-ethoxy-4'-methoxyphenyl)-3-phthalimido-1-propanol (1 gram, 2.82 mmol), ethyl bromide (0.42 mL, 5.63 mmol), and tetrabutyl ammonium iodide (200 mg, 0.54 mmol) in THF (10 mL) at room temperature, was added NaH (270 mg, 60%, 6.75 mmol). The mixture was stirred at room temperature for 45 minutes, and then was heated to reflux for 4 h. To the mixture was added a few drops of NH4Cl, then HCl (1N, 25 mL). The organic layer was separated. The aqueous layer was extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine (25 mL), and dried over magnesium sulfate. Removal of solvent and chromatography (silica gel 100 grams, 1:5 EtOAc:hexane) gave 1-ethoxy-3-(3'-ethoxy-4'-methoxyphenyl)-3-phthalimidopropane as an oil, (800 mg, 74% yield): 1H NMR (CDCl3)δ1.06 (t, J=7Hz, 3H, CH3), 1.46 (t, J=7 Hz, 3H, CH3), 2.46-2.58 (m, 1H, CHH), 2.75-2.95 (m, 1H, CHH), 3.37 (q, J=7 Hz, 2H, CH2), 3.44 (q, J=7 Hz, 2H, CH2), 3.85 (s, 3H, CH3), 4.12 (q, J=7 Hz, 2H, CH2), 5.49 (dd, J=6.4, 9.5 Hz, 1H, NCH), 6.81 (d, J=8.2 Hz, 1H, Ar), 7.10-7.48 (m, 2H, Ar), 7.68-7.72 (m, 2H, Ar), 7.77-7.83 (m, 2H, Ar); 13C NMR (CDCl3)δ14.73, 14.98, 31.31, 52.24, 55.89, 64.30, 66.33, 67.73, 111.11, 112.99, 120.61, 123.11, 132.00, 132.09, 133.80, 148.11, 148.84, 168.44; Anal Calcd for C22H25NO5 : C, 68.91; H, 6.57; N, 3.65. Found: C, 68.77; H, 6.47; N, 3.57.

reactant | 3-(3'-ethoxy-4'-methoxyphenyl)-3-phthalimido-1-propanol | 2.82 mmol, 1 gram | C(C)OC=1C=C(C=CC1OC)C(CCO)N1C(C=2C(C1=O)=CC=CC2)=O | C20H21NO5
reactant | ethyl bromide | 5.63 mmol, 0.42 mL | C(C)Br | C2H5Br
reactant | NaH | 6.75 mmol, 270 mg | [H-].[Na+]
reactant | HCl | 1N, 25 mL | Cl | ClH
catalyst | tetrabutyl ammonium iodide | 0.54 mmol, 200 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | NH4Cl | a few drops | [NH4+].[Cl-]
product | 1-ethoxy-3-(3'-ethoxy-4'-methoxyphenyl)-3-phthalimidopropane | 74% yield | C(C)OCCC(N1C(C=2C(C1=O)=CC=CC2)=O)C2=CC(=C(C=C2)OC)OCC | C22H25NO5
